US04833242
7β-[2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[4-(oxazol-2-yl)-1-pyridinio]methyl-3-cephem-4-carboxylate (syn isomer)
0.75 g of sodium 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylate (hereinafter referred to Compound 1), 2.25 g of sodium iodide and 0.51 g of 4-(oxazol-2-yl)-pyridine were added to a mixture of 0.4 ml of 4 N hydrochloric acid and 1.2 ml of acetonitrile, followed by stirring at 80° C. for 1 hour. After allowing the mixture to cool, the reaction mixture was poured into acetone, and the precipitate formed was separated by filtration and washed with acetone. The resulting crude powder was dissolved in water, and the solution was subjected to column chromatography of Diaion HP-20 (trade name of Mitsubishi Chemical Industries, Ltd.). The column was developed with a mixture of water-tetrahydrofuran (93:7 by volume). The eluate was further subjected to reversed phase high performance liquid chromatography (column packing: Develosil, trade name of Nomura Chemical Co., Ltd.) and developed with a mixture of water-acetonitrile (89:11 by volume) to obtain the titled compound. Melting point: 160°-170° C. (decomposition).

reactant | sodium 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylate | 0.75 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)[O-])C1=O)=NOC.[Na+]
reactant | sodium iodide | 2.25 g | [I-].[Na+]
reactant | 4-(oxazol-2-yl)-pyridine | 0.51 g | O1C(=NC=C1)C1=CC=NC=C1 | C8H6N2O
reactant | hydrochloric acid | 4 N, 0.4 ml | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
product | 7β-[2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[4-(oxazol-2-yl)-1-pyridinio]methyl-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C(C=C2)C=2OC=CN2)C(=O)[O-])C1=O)=NOC | C22H19N7O6S2
